data/specific_train_final.csv
"CCC12C=CC(C(C1O)OO2)O[O:20].[N:10]=O>>CCC12C=CC(C(C1O)OO2)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=CC2(C(C(C1O[O:20])(OO2)C)O)CC.[N:10]=O>>CCC1=CC2(C(C(C1O[O:20][N:10]=O)(OO2)C)O)CC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[CH:10]C(C)(C)C.[O:20][O]>>C[CH:10](C(C)(C)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CCOC(=O)C)[O:20][O:21][O].[N+](=O)[O-]>>CC(CCOC(=O)C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:12][O:11][O:10][CH2:9][CH:8]=[C:2]([CH3:1])[CH:3]([O:4])[O:5][O:6][H:7]>>[H:7][O:6][O:5].[H:12][O:11][O:10][CH2:9][CH:8]=[C:2]([CH3:1])[CH:3]=[O:4] 4-3,4; 3,5-3,4; 3,5-5",Room Temperature,Propagation,retroaddition
"[H:7][O:6][O:5][C:3]([CH3:4])([CH2:2][OH:1])[CH:8]([CH:13][OH:14])[O:9][N+:10](=[O:12])[O-:11].[O:15][O:16]>>[H:7][O:6][O:5][C:3]([CH3:4])([CH2:2][OH:1])[CH:8]([CH:13]([OH:14])[O:15][O:16])[O:9][N+:10](=[O:12])[O-:11] 13-13,15;15-13,15",Room Temperature,Termination,recombine
"CCCCC(C[O:20])O.[N+:10](=O)[O-]>>CCCCC(C[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C([O:20][O:21]N=O)Br)Br>>C(C([O:20])Br)Br.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=CCC(CC1O)C(C)(C)[O:21][O:20][O].[N+](=O)[O-]>>CC1=CCC(CC1O)C(C)(C)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOC(C)(C)C[O:20][O:21]N=O>>CCOC(C)(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=CCCC(C2CC(C2CC1)(C)C)(CO)[O:20].[N+:10](=O)[O-]>>CC1=CCCC(C2CC(C2CC1)(C)C)(CO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=C(C=C1)C(=O)[O:21][O:20]N=O>>C1=CC=C(C=C1)C(=O)[O:21].N(=O)[O:20] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(CCl)[O:21][O:20][O]>>C(CCl)[O:21].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C(C(O)(Cl)Cl)(O[O:10])Cl>>[H:20][O:10]OC(C(O)(Cl)Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=C(C=CC=C1)C(C)O[O:20].[N:10]=O>>CC1=C(C=CC=C1)C(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CSCO[O:10]>>[H:20][O:10]OCSC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C(C)(C)C)O[O:10]>>[H:20][O:10]OC(C)C(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(CO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CCC(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:10][O:9][O:8][C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[CH:11]([CH2:13][O:14][O:15])[OH:12]>>[H:10][O:15][O:14][CH2:13][CH:11]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9])[OH:12] 9,10-15,10; 15-15,10; 9,10-9",Room Temperature,Propagation,abstraction
"C1=C(C)C=C(C)C=C1CC[O:10][O:20]N=O>>C1=C(C)C=C(C)C=C1CC[O:10].[O:20]N=O 10,20-10; 10,20-20",Room Temperature,Initiation,homolyze
"c1ccccc1[C](=O)O[O:10].[H:20][O:21][O]>>c1ccccc1[C](=O)O[O:10][H:20].[O:21][O] 10-10,20; 20,21-10,20; 20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]C(C)(C=O)O.[O:10][O]>>[H:20][O:10][O].CC([CH:22]=[O:21])(C=O)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[CH3:12][CH2:11][CH2:10][CH:8]([CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13])[OH:9]>>[CH3:12][CH2:11][CH2:10][CH:8]([CH:6]([CH3:7])[O:5][O:4][O:3])[OH:9].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"C1=CC=C(C=C1)C[O:20].[N+:10](=O)[O-]>>C1=CC=C(C=C1)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O)(Cl)Cl)(O[O:20])Cl.[N:10]=O>>C(C(O)(Cl)Cl)(O[O:20][N:10]=O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)OCC[O:21][O:20][O].[N+](=O)[O-]>>CC(=O)OCC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:10][O:9][CH:8][CH:7]=[C:5]([CH3:6])[CH2:4][O:3][N+:2](=[O:1])[O-:11].[O:12][O:13]>>[H:10][O:13][O:12].[CH3:6][C:5](=[CH:7][CH:8]=[O:9])[CH2:4][O:3][N+:2](=[O:1])[O-:11] 8-8,9; 9,10-8,9; 9,10-13,10; 13-13,10",Room Temperature,Termination,abstraction
"CCCCC(CO[N+](=O)[O-])[O:20][O:21][O]>>CCCCC(CO[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1[O:10][O:21][S:20](=O)O1>>[O:10]CO[S:20]([O:21])=O 10,21-10;10,21-21",Room Temperature,Initiation,homolyze
"CC(=O)C(C(C)(C)O)O[O:20].[N:10]=O>>CC(=O)C(C(C)(C)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC12[CH:21]([CH:20](C=CC1(O2)C)[O:10])O>>CCC1([CH:21]O)C(O1)(C=C[CH:20]=[O:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C(O[O:20])Cl)Cl.[N:10]=O>>CC(C(O[O:20][N:10]=O)Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
